US08835458B2
<Step 7> Preparation of 7-methoxy-quinazolin-4,6-diamine
The procedure of Example 23 was repeated except for using 7-methoxy-6-nitroquinazolin-4-ylamine instead of 7-methoxy-6-nitroquinazolin-4-yl)methylamine in <Step 7> to obtain the title compound (158 mg, 92%).

reactant | 7-methoxy-6-nitroquinazolin-4-ylamine | COC1=C(C=C2C(=NC=NC2=C1)N)[N+](=O)[O-] | C9H8N4O3
reactant | methylamine | CN | CH5N
product | 7-methoxy-quinazolin-4,6-diamine | 158 mg, 92% | COC1=C(C=C2C(=NC=NC2=C1)N)N | C9H10N4O
